US07132539B2
Preparation of azetidine-2-carboxylic acid [2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-amide.
2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide, 41, (0.78 g, 0.83 mmol) and Boc-L-azetidine-2-carboxylic acid (0.17 g, 0.83 mmol), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide (0.19 g, 1.0 mmol) and 1-hydroxybenzotriazole (0.22 g, 1.66 mmol) are dissolved in anhydrous DMF (2 mL). The reaction mixture is cooled to 0° C., then N-methylmorpholine (0.6 mL, 5.46 mmol) is added. The reaction mixture is stirred for 4 hrs. EtOAc (30 mL) and water (100 mL) are added, and the organic layer is separated. The aqueous layer is extracted with EtOAc (3×30 mL). All organic layers are combined and washed with water (2×50 mL), and dried over Na2SO4. The solution is concentrated in vacuo to afford the desired product which is used without further purification.

reactant | 2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide | NC(C(=O)N1C(CN(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)F | C29H35FN4O2
reactant | Boc-L-azetidine-2-carboxylic acid | 0.83 mmol, 0.17 g | CC(C)(C)OC(=O)N1CC[C@H]1C(=O)O | C9H15NO4
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide | 1.0 mmol, 0.19 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 1.66 mmol, 0.22 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 5.46 mmol, 0.6 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | azetidine-2-carboxylic acid [2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl]-amide | C(C)C1N(CCN(C1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)C(C(CC1=CC=C(C=C1)F)NC(=O)C1NCC1)=O | C33H40FN5O3
